US05426164
4,4'-Bis(trifluoroethenyloxy)-α-methylstilbene:
The intermediate product 4,4-bis(2-bromotetrafluoroethoxy)-α-methylstilbene (106.43 g, 0.18 mole) is added to 100 ml of acetonitrile in a 250 ml dropping addition funnel attached to a 1 liter 5-necked round bottomed flask. Zinc granules (40 mesh, 25.0 g, 0.38 mole) are added to the reactor along with 100 ml of acetonitrile, and the resulting stirred suspension is deoxygenated with nitrogen for 10 minutes by introducing nitrogen gas through a gas dispersion tube. The suspension is then heated to 75° C., at which point the addition of intermediate product solution in acetonitrile is begun. The addition is carried out over 20 minutes, and the resulting mixture is heated at 75° C. overnight. After centrifugation to remove suspended solids, the resulting supernatant is evaporated to dryness, leaving a crude product which is filtered through a short bed (4 cm) of alumina in a 600 ml sintered glass filter funnel using hexane as the eluent. After removal of the hexane by evaporation, the product is heated at 55° C. under high vacuum for 30 minutes.

reactant | 4,4-bis(2-bromotetrafluoroethoxy)-α-methylstilbene | 0.18 mole, 106.43 g | BrC(C(OC1(CC=C(C=C1)C(=CC1=CC=CC=C1)C)OC(C(Br)(F)F)(F)F)(F)F)(F)F | C19H14Br2F8O2
catalyst | Zinc | [Zn] | Zn
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4,4'-Bis(trifluoroethenyloxy)-α-methylstilbene | FC(=C(F)F)OC1=CC=C(C=C1)C(=CC1=CC=C(C=C1)OC(=C(F)F)F)C | C19H12F6O2
